US08389527B2
46A. 6-((trans)-4-aminocyclohexylamino)-8-(6-bromopyridin-2-ylamino)-N-(3-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide
A mixture of 8-(6-bromopyridin-2-ylamino)-6-chloro-N-(3-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide (550 mg, 1.189 mmol) and (trans)-cyclohexane-1,4-diamine (1086 mg, 9.51 mmol) in NMP (4 mL) was heated at 100° C. overnight. The reaction mixture was cooled to room temperature and poured onto ice. The resulting yellow solid was collected by filtration and rinsed with water. The still wet solid pad was concentrated from DCM/MeOH 3 times until dryness. The solid residue was treated with a small amount of MeOH, and the yellow solid was collected by filtration and dried under vacuum to give the title compound (456 mg, 71%). HPLC Rt=2.870 min (Chromolith SpeedROD 4.6×50 mm, 10-90% aqueous methanol containing 0.1% TFA, 4 min gradient, monitored at 220 nm), [M+H]=542.

reactant | 8-(6-bromopyridin-2-ylamino)-6-chloro-N-(3-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide | 1.189 mmol, 550 mg | BrC1=CC=CC(=N1)NC=1C=2N(N=C(C1)Cl)C(=CN2)C(=O)NC2=C(C=NC=C2)F | C17H10BrClFN7O
reactant | (trans)-cyclohexane-1,4-diamine | 9.51 mmol, 1086 mg | [C@H]1(CC[C@H](CC1)N)N | C6H14N2
solvent | NMP | 4 mL | CN1CCCC1=O | C5H9NO
product | 6-((trans)-4-aminocyclohexylamino)-8-(6-bromopyridin-2-ylamino)-N-(3-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide | 456 mg, 71% | N[C@@H]1CC[C@H](CC1)NC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=C(C=NC=C2)F)NC2=NC(=CC=C2)Br | C23H23BrFN9O
